US07601772B2
The synthesis of 1-benzyl-2-methyl-3-hexadecyl imidazolium chloride (C16-bmim)
The procedure of Example 1 was repeated with minor change. 427 g of 1-chlorohexadecane (Aldrich) and 280 g of 1-benzyl-2-methyl imidazole (Shikoku Chemicals Corp. 1B2MZ) were added into a 2000 ml three-neck round-bottom flask. The reaction temperature was set from 75 to 80° C. After four hours the milk-like solution transferred into a homogenous solution. The reaction was continued for four days. Then, the product was washed with ethyl acetate five times. After that, it was dried under vacuum for three days.

reactant | 1-chlorohexadecane | 427 g | ClCCCCCCCCCCCCCCCC | C16H33Cl
reactant | 1-benzyl-2-methyl imidazole | 280 g | C(C1=CC=CC=C1)N1C(=NC=C1)C | C11H12N2
product | 1-benzyl-2-methyl-3-hexadecyl imidazolium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=C(N(C=C1)CCCCCCCCCCCCCCCC)C | InChI=1S/C27H45N2.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-19-22-28-23-24-29(26(28)2)25-27-20-17-16-18-21-27;/h16-18,20-21,23-24H,3-15,19,22,25H2,1-2H3;1H/q+1;/p-1
